US07468378B2
Preparation of Intermediate 2-[(4′-tert-Butylbiphenyl-2-carbonyl)amino]quinoline-6-carboxylic acid benzyl ester
To solution of 2-aminoquinoline-6-carboxylic acid benzyl ester (25 g, 100 mmol) and 4′-tert-butylbiphenyl-2-carboxylic acid (19.5 g, 70 mmol) in CH2Cl2 (500 mL) was added 4-dimethylaminopyridine (9.77 g, 80 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (19.2 g, 100 mmol). The reaction mixture was stirred at room temperature for 18 h and then diluted with saturated aqueous NaHCO3 solution. The aqueous phase was separated and extracted with CH2Cl2. Combined organic layers were washed with brine, dried over MgSO4 and concentrated. The title compound (28.6 g, 79%) was isolated by column chromatography eluting with a gradient of 5% to 30% EtOAc in hexane.

reactant | 2-aminoquinoline-6-carboxylic acid benzyl ester | 100 mmol, 25 g | C(C1=CC=CC=C1)OC(=O)C=1C=C2C=CC(=NC2=CC1)N | C17H14N2O2
reactant | 4′-tert-butylbiphenyl-2-carboxylic acid | 70 mmol, 19.5 g | C(C)(C)(C)C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O | C17H18O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 100 mmol, 19.2 g | Cl.CN(CCCN=C=NCC)C
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 80 mmol, 9.77 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2-[(4′-tert-Butylbiphenyl-2-carbonyl)amino]quinoline-6-carboxylic acid benzyl ester | 28.6 g, 79% | C(C1=CC=CC=C1)OC(=O)C=1C=C2C=CC(=NC2=CC1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(C)(C)C | C34H30N2O3
